US07592334B2
g) 4-Bromo-3-fluoro-6-methoxy-[1,5]naphthyridine
A suspension of 4-bromo-6-methoxy-[1,5]naphthyridine-3-diazonium tetrafluoroborate (31.42 g, 89.0 mmole) in decalin (mixed isomers, 500 mL) in a 2 L flask* was heated to 180° C. and held at this temperature for 5 min. The mixture was cooled and diluted with CHCl3 (500 mL, to keep the product in solution), and the resulting mixture was stirred vigorously for 30 min to break up a black solid byproduct. The mixture was then poured onto a column of silica gel and the column was eluted with CHCl3 to remove decalin and then with 3% EtOAc/CHCl3 to afford the title compound (9.16 g, 40%).

reactant | 4-bromo-6-methoxy-[1,5]naphthyridine-3-diazonium tetrafluoroborate | 89.0 mmole, 31.42 g | F[B-](F)(F)F.BrC1=C(C=NC2=CC=C(N=C12)OC)[N+]#N
solvent | decalin | 500 mL | C1CCCC2CCCCC12 | C10H18
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-3-fluoro-6-methoxy-[1,5]naphthyridine | 9.16 g, 40% | BrC1=C(C=NC2=CC=C(N=C12)OC)F | C9H6BrFN2O
